US06420426B1
To a stirring solution of 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid methyl ester (0.5 g, 2.3 mmol) in dioxane (8 mL, 0.3 M) was added 2N NaOH (6.0 mL, 12 mmol). After one'hour at room temperature, the reaction mixture was concentrated, and 2N HCl was added. The aqueous layer was diluted with ether. The organic layer was separated, dried over Na2SO4, filtered and concentrated to afford a 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid (0.55 g, 96%) as a pale yellow powder: Rf 0.18 (5% methanol in dichloromethane); 1H NMR (CDCl3, 300 MHz) δ 8.35 (d, J=9.0 Hz, 1H), 7.55-7.52 (m, 2H), 7.48-7.38 (m, 3H), 6.89 (d, J=11.7 Hz, 1H), 4.12 (s, 3H).

reactant | 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid methyl ester | 2.3 mmol, 0.5 g | COC(=O)C=1C=C(C(=CC1OC)F)C1=CC=CC=C1 | C15H13FO3
reactant | NaOH | 12 mmol, 2N, 6.0 mL | [OH-].[Na+]
solvent | dioxane | 0.3 M, 8 mL | O1CCOCC1 | C4H8O2
product | 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid | 0.55 g, 96% | FC1=CC(=C(C=C1C1=CC=CC=C1)C(=O)O)OC | C14H11FO3
